US07053245B2
b) 4-(3-Fluoro-benzyloxy)-phenylamine
3 g (12.1 mmol) of 1-(3-fluorobenzyloxy)-4-nitro-benzene is dissolved in 125 ml of methanol. 150 mg of Pt 5% on charcoal is added and hydrogenation done under normal pressure for about 17 h. The catalyst is filtered and the solution evaporated to yield 2.51 g (95%) of crude brownish material. MS: m/e=218.4 (M++H).

reactant | 1-(3-fluorobenzyloxy)-4-nitro-benzene | 12.1 mmol, 3 g | FC=1C=C(COC2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C13H10FNO3
solvent | methanol | 125 ml | CO | CH4O
product | 4-(3-Fluoro-benzyloxy)-phenylamine | FC=1C=C(COC2=CC=C(C=C2)N)C=CC1 | C13H12FNO
